US06951955B2
(S)—N-(2-Methyl-2-phenylpropylidene)-p-toluenesulfinamide
To a stirred solution of 2.5 g of 2,2-dimethyl-3-phenyloxirane (16 mmol) in 85 mL of anhydrous benzene is added 0.415 g (0.362 mmol, 5 mol %) of tris(pentafluorophenyl) borane. The light yellow solution is stirred at 25° C. for 19 hours. The reaction mixture containing the 2-methyl-2-phenylpropanal is then treated with (S)-p-toluenesulfinamide (2.3 g, 15 mmol) followed by a solution of 16 mL (73 mmol) titanium ethoxide in 155 mL of benzene. The yellow solution is stirred at 25° C. for 24 hours then cooled to 5-10° C. and quenched with 245 mL of water. The mixture is filtered through diatomaceous earth, and the filter cake washed with methylene chloride (4×50 mL). The aqueous layer is washed with methylene chloride (1×25 mL). The combined organic layers are dried (MgSO4) and concentrated under reduced pressure to give 3.74 g (81%) of the desired product as a white solid. The product is used without further purification in the next step.

reactant | 2,2-dimethyl-3-phenyloxirane | 16 mmol, 2.5 g | CC1(OC1C1=CC=CC=C1)C | C10H12O
reactant | 2-methyl-2-phenylpropanal | CC(C=O)(C)C1=CC=CC=C1 | C10H12O
reactant | (S)-p-toluenesulfinamide | 15 mmol, 2.3 g | C1(=CC=C(C=C1)[S@](=O)N)C | C7H9NOS
solvent | benzene | 85 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 155 mL | C1=CC=CC=C1 | C6H6
catalyst | titanium ethoxide | 73 mmol, 16 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
catalyst | tris(pentafluorophenyl) borane | 0.362 mmol, 0.415 g | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
product | (S)—N-(2-Methyl-2-phenylpropylidene)-p-toluenesulfinamide | 3.74 g, 81% | CC(C=N[S@@](=O)C1=CC=C(C=C1)C)(C)C1=CC=CC=C1 | C17H19NOS
